US04076739
Preparation of 2(S)-[2(S)-hydroxy-3(Z)-pentenyl]-2,5,7,8-tetramethyl-6-benzyloxychroman
2.5 g. of 2(S)-[2(S)-hydroxy-3-pentynyl]-2,5,7,8-tetramethyl-6-benzyloxychroman and 0.25 g. of Lindlar catalyst in 15 ml. of ethyl acetate-hexane (2 = 1 parts by volume) containing 0.1 ml. of quinoline was hydrogenated at 25° C. and atmospheric pressure. The catalyst was filtered off and washed with ethyl acetate. The ethyl acetate solution was washed with 1.0 N aqueous HCl (3 × 50 ml.), dried over MgSO4 and concentrated in vacuo to give 2.508 g. of crude product. Crystallization of this material from pentane yield 2.053 g. of 2(S)-[2(S)-hydroxy-3(Z)-pentenyl]-2,5,7,8-tetramethyl-6-benzyloxychroman as white crystalls, m.p. 84°-86° C. [α]D25 - 30.57° (CHCl3).

reactant | 2(S)-[2(S)-hydroxy-3-pentynyl]-2,5,7,8-tetramethyl-6-benzyloxychroman | O[C@@H](C[C@]1(OC2=C(C(=C(C(=C2CC1)C)OCC1=CC=CC=C1)C)C)C)C#CC | C25H30O3
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2(S)-[2(S)-hydroxy-3(Z)-pentenyl]-2,5,7,8-tetramethyl-6-benzyloxychroman | O[C@@H](C[C@]1(OC2=C(C(=C(C(=C2CC1)C)OCC1=CC=CC=C1)C)C)C)\C=C/C | C25H32O3
